US07737136B2
Ethyl trans-[(7-chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)amino]acetate (Structure 68 of Scheme XVI)
To a suspension of trans-7-chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]-diazepin-1-ylamine (100 mg, 0.25 mmol) in DMF (2 mL) was added ethyl bromoacetate (56 μl, 0.51 mmol) and triethylamine (107 ul, 0.76 mmol). The resulting reaction mixture was heated to 60° C. and stirred for 5 h. The mixture was poured into water and extracted with ethyl acetate (3×). The organic layers were washed with sat (aq) NaHCO3 and brine. After drying (MgSO4), the solvents were removed under reduced pressure. The crude product was purified on silica with heptane/ethyl acetate 8:2 to afford 80 mg (80%) of the title compound.

reactant | trans-7-chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]-diazepin-1-ylamine | 0.25 mmol, 100 mg | ClC1=CC2=C(N(C3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C)C=C1 | C18H20ClN3
reactant | ethyl bromoacetate | 0.51 mmol, 56 μl | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 0.76 mmol, 107 ul | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl trans-[(7-chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)amino]acetate | 80 mg, 80% | ClC1=CC2=C(N(C3=C([C@H]4N2CCC[C@H]4NCC(=O)OCC)C=CC=C3)C)C=C1 | C22H26ClN3O2
